US08232326B2
Synthesis of 2-(hydroxymethyl)-4-methyl-6-((2-nitro-4-(trifluoromethyl)-phenyl)-diazenyl)phenol
In a 500 ml round bottom flask equipped with a magnetic stirrer was combined 26.0 g (126 mmol) 2-nitro-4-(trifluoromethyl)-aniline, 5.3 ml conc. HCl, 100 ml deionized water, and 150 ml ethanol. The mixture was cooled to 0° C. and sodium nitrite in 30 ml water was added dropwise over 60 minutes. The reaction mixture was stirred for an additional 1 hour and 300 mg sulfamic acid was added to destroy the excess nitrite. The solids were filtered and the cold filtrate was set aside. In a 1 liter flask was suspended (2-hydroxy-5-methoxy-1,3-phenylene)dimethanol in 200 ml deionized water and 100 ml ethanol. Approximately one-fourth of a solution of sodium hydroxide (25.4 g, 635 mmol) in 100 ml water was added to the phenolic mixture at 0° C. The diazonium salt mixture and remaining sodium hydroxide solution were added concurrently to the phenolic mixture over 1 hour. The reaction mixture was allowed to stir at 0° C. for 1 hour and room temperature for 4 hours. The mixture was poured in 3 liters water and the pH adjusted to 3-4 using 1N HCl. The solid was filtered and washed with ample amounts of water and then vacuum dried (0.1 mm Hg) at 55° C. for 40 hours to give 27.4 g (76%) of a red solid.

reactant | 2-nitro-4-(trifluoromethyl)-aniline | 126 mmol, 26.0 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)C(F)(F)F | C7H5F3N2O2
reactant | HCl | 5.3 ml | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 635 mmol, 25.4 g | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | water | 3 liters | O | H2O
catalyst | sulfamic acid | 300 mg | S(N)(O)(=O)=O | H3NO3S
product | 2-(hydroxymethyl)-4-methyl-6-((2-nitro-4-(trifluoromethyl)-phenyl)-diazenyl)phenol | 27.4 g, 76% | OCC1=C(C(=CC(=C1)C)N=NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])O | C15H12F3N3O4
